US06258811B1
The 2-acetoxymethyl-4,7-difluorobenzofuran (252 mg) was dissolved in methanol (5 ml). After adding potassium carbonate (455 mg) at room temperature, the resulting mixture was stirred at the same temperature for 2 hr. Then ethyl acetate was added to the liquid reaction mixture and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solvent: 5% ethyl acetate/n-hexane) to give 4,7-difluoro-2-hydroxybenzofuran (161 mg) as a colorless oil.

reactant | 2-acetoxymethyl-4,7-difluorobenzofuran | 252 mg | C(C)(=O)OCC=1OC2=C(C1)C(=CC=C2F)F | C11H8F2O3
reactant | potassium carbonate | 455 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 4,7-difluoro-2-hydroxybenzofuran | 161 mg | FC1=CC=C(C2=C1C=C(O2)O)F | C8H4F2O2
